US08865752B2
To a mixture of 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine (4.75 g, 15.06 mmol) and water (46 mL) at 0° C. was added aqueous HBr (18.5 mL) and the mixture was cooled to −10° C. A cold (−10° C.) solution of sodium nitrite (1.3 g) in water (15 mL) was added to the reaction mixture over a period of 10 min while maintaining the temperature below −5° C. and the reaction was stirred at −10° C. for 15 min. To the reaction mixture was added a cold (−10° C.) solution of CuBr2 in water (46 mL), cooling bath was removed and stirred for 3 h. The reaction was basified using aqueous sodium carbonate, filtered through a pad of celite and extracted with DCM. The DCM extract was washed with water, dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography using 0 to 2% methanol in DCM as eluent to afford 1-(2-bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine. MS ESI: m/z 400.9 [M+Na+].

reactant | 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | 15.06 mmol, 4.75 g | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC)C | C16H21N5S
reactant | HBr | 18.5 mL | Br | BrH
reactant | sodium nitrite | 1.3 g | N(=O)[O-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 46 mL | O | H2O
solvent | water | 46 mL | O | H2O
product | 1-(2-bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)C)N2C=NC=C2 | C16H19BrN4S
